US06265426B1
3-Dimethylaminomethyl-benzoic acid methyl ester
To a cooled (−10° C.) solution of methyl-3-(bromomethyl)benzoate (22.9 g, 100 mmol) in ether (250 ml) was added dimethylamine hydrochloride salt (17.9 g, 220 mmol) followed by slow addition of triethylamine (30.6 ml, 220 mmol). The mixture was then allowed to warm to r.t. over 48 h, the solids were filtered off and the filter-cake washed with ether. The yellow oil remaining after evaporation of the solvent was distilled over a Vigreux column to afford the title compound (10.7 g, 55% yield) as a colorless oil. MS: m/e=193 (M+).

reactant | methyl-3-(bromomethyl)benzoate | 100 mmol, 22.9 g | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
reactant | dimethylamine hydrochloride salt | 220 mmol, 17.9 g | Cl.CNC
reactant | triethylamine | 220 mmol, 30.6 ml | C(C)N(CC)CC | C6H15N
solvent | ether | 250 ml | CCOCC | C4H10O
product | 3-Dimethylaminomethyl-benzoic acid methyl ester | 10.7 g, 55% yield | COC(C1=CC(=CC=C1)CN(C)C)=O | C11H15NO2
